US07081463B2
A 1-L 4-neck equipped with an overhead stirrer, a condenser and a thermocouple was charged with 8-methyl-1-napthalenemethanol (18.5 g, 0.107 mol) in CH2Cl2 (500 mL) and stirred at room temperature under N2. Solid Mn(IV)O2 (61 g, 0.7 mol) was carefully added and the reaction was stirred at room temperature for 3 h, then at 40° C. for 6 h and then at room temperature overnight. The reaction mixture was diluted with CH2Cl2 (500 mL), filtered and the filtrate was washed with 1N HCl and then dried over MgSO4. The resulting crude material was purifed using silica gel chromatography (8/2 hexane/ethyl acetate) to yield 8-methyl-naphthalene-1-carbaldehyde as a solid.

reactant | 8-methyl-1-napthalenemethanol | 0.107 mol, 18.5 g | CC=1C=CC=C2C=CC=C(C12)CO | C12H12O
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 8-methyl-naphthalene-1-carbaldehyde | CC=1C=CC=C2C=CC=C(C12)C=O | C12H10O
